US07101880B2
A mixture of 2-amino-3-hydroxypyridine (25 g, 227 mmol), triethylorthoformate (75 mL) and p-toluenesulfonic acid (61 mg) was heated at 140° C. for 8 h. Excess triethylorthoformate was removed under vacuum. The product was crystallized from ethyl acetate to yield 22.5 g of oxazolo[4,5-b]pyridine.

reactant | 2-amino-3-hydroxypyridine | 227 mmol, 25 g | NC1=NC=CC=C1O | C5H6N2O
reactant | triethylorthoformate | 75 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 61 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | oxazolo[4,5-b]pyridine | 22.5 g | O1C=NC2=NC=CC=C21 | C6H4N2O
